US06492406B1
a) 1-((4S,1R)-4-Acetoxy-cyclopent-2-enyl)-5-fluoro-indole-3-carboxylic acid methyl ester
In a flask was dissolved the compound obtained in Example 3a) (6.1 g, 15.7 mmol), in THF (70 mL). Tetrabutylammonium fluoride trihydrate (9.0 g, 28.5 mmol) was added and the flask was sealed, and stirred at room temperature for 1 hour. The solution was cooled on ice and pyridine (100 mL), and acetic anhydride (50 mL) was added. The ice bath was removed after 30 minutes, and the mixture was stirred at room temperature for another 3 hours. The volatiles were removed in vaccuo and the residue was taken up in ethyl acetate and washed with water, saturated aqueous sodium hydrogen carbonate (10%) and brine. The organic solution was concentrated in vaccuo and the residue was purified on silica (toluene-ethyl acetate, 7:1), giving 4.8 g (96%) of the sub-title compound as a brownish solid.

reactant | Tetrabutylammonium fluoride trihydrate | 28.5 mmol, 9.0 g | O.O.O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 50 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | THF | 70 mL | C1CCOC1 | C4H8O
product | 1-((4S,1R)-4-Acetoxy-cyclopent-2-enyl)-5-fluoro-indole-3-carboxylic acid methyl ester | 4.8 g, 96% | COC(=O)C1=CN(C2=CC=C(C=C12)F)[C@H]1C=C[C@H](C1)OC(C)=O | C17H16FNO4
